US05068300
E-4-(Carbo-tert.-butoxy)-4'-(4-carbo-tert.-butoxystyryl)tolan
300 ml of NEt3 and 20.46 g of Pφ3 are added under nitrogen to 234 g of 4-bromo-4'-carbo-tert.-butoxystilbene in 1 l of absolute acetonitrile. Nitrogen is passed through the stirred suspension for 20 minutes and 9.12 g of (Pφ3)2PdCl2 and 2.5 g of copper(I)iodide are then added. 144 g of 4-Ethinyl benzoic acid tert.-butyl ester dissolved in 1 l of absolute acetonitrile are then added dropwise under reflux over a period of 6 hours and the reaction mixture is boiled under reflux overnight. The hot product obtained after suction filtration is dissolved in CH2Cl2, washed several times with H2O and dried and the solvent is removed.

reactant | NEt3 | 300 ml | CCN(CC)CC | C6H15N
reactant | 4-bromo-4'-carbo-tert.-butoxystilbene | 234 g | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C19H19BrO2
reactant | 4-Ethinyl benzoic acid tert.-butyl ester | 144 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#C)=O | C13H14O2
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
catalyst | copper(I)iodide | 2.5 g | [Cu]I
product | E-4-(Carbo-tert.-butoxy)-4'-(4-carbo-tert.-butoxystyryl)tolan | C(=O)(OC(C)(C)C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)C(=O)OC(C)(C)C | C32H32O4
